US07452894B2
2-Amino-N-benzyl-6-(2-furyl)-9H-purine-9-acetamide (Example 86)
A suspension of 2-amino-6-(2-furyl)-9H-purine-9-acetic acid (129 mg, 0.5 mmol) in DMF (2 mL) was treated with carbonyl diimidazole (81 mg, 0.5 mmol), stirred at room temperature for 1 h, treated with benzylamine (55 μL, 0.5 mmol), stirred at room temperature for 2 h, diluted with water, filtered and dried to give the title compound (115 mg, 66%) as a white solid.

reactant | 2-amino-6-(2-furyl)-9H-purine-9-acetic acid | 0.5 mmol, 129 mg | NC1=NC(=C2N=CN(C2=N1)CC(=O)O)C=1OC=CC1 | C11H9N5O3
reactant | carbonyl diimidazole | 0.5 mmol, 81 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | benzylamine | 0.5 mmol, 55 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Amino-N-benzyl-6-(2-furyl)-9H-purine-9-acetamide | 115 mg, 66% | NC1=NC(=C2N=CN(C2=N1)CC(=O)NCC1=CC=CC=C1)C=1OC=CC1 | C18H16N6O2
